US04236002
A suspension of 5 grams of 7-[[amino[4-hydroxy-3-(methoxymethyl)phenyl]acetyl]amino]-7-methoxy-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, sodium salt and 8.5 grams of N-tert-butoxycarbonyl-L-valine chloromethyl ester, which is prepared by the general procedure described in W. German Offen. No. 2,236,620, are mixed in 100 ml of dimethylformamide and stirred for 72 hours. The mixture is diluted with ethyl acetate, washed with water and aqueous bicarbonate and again with water. The ethyl acetate portion is dried over magnesium sulfate, filtered and evaporated to give 7-[[amino[4-hydroxy-3-(methoxymethyl)phenyl]acetyl]amino]-7-methoxy-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, N-tert-butoxycarbonyl-2-amino-3-methylbutyryloxymethyl ester from which the protecting group can be removed by standard procedures to give the title compound.

reactant | 7-[[amino[4-hydroxy-3-(methoxymethyl)phenyl]acetyl]amino]-7-methoxy-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 5 grams | NC(C(=O)NC1(C2SCC(=C(N2C1=O)C(=O)O)C)OC)C1=CC(=C(C=C1)O)COC | C19H23N3O7S
reactant | sodium | [Na] | Na
reactant | N-tert-butoxycarbonyl-L-valine chloromethyl ester | 8.5 grams | ClCOC([C@@H](NC(=O)OC(C)(C)C)C(C)C)=O | C11H20ClNO4
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-[[amino[4-hydroxy-3-(methoxymethyl)phenyl]acetyl]amino]-7-methoxy-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, N-tert-butoxycarbonyl-2-amino-3-methylbutyryloxymethyl ester | NC(C(=O)NC1(C2SCC(=C(N2C1=O)C(=O)OCOC(C(C(C)C)NC(=O)OC(C)(C)C)=O)C)OC)C1=CC(=C(C=C1)O)COC | C30H42N4O11S
